US04558047
[R-(R*, R*)]-α-(1-Formyl-2-hydroxyethoxy)-3,4-dihydro-2,4-dioxo-1(2H)-pyrimidineacetaldehyde, (uridinedialdehyde), (6.05 g) was dissolved in water (25 ml). To the solution was added 2-aminopyrimidine (2.38 g). The mixture was stirred at ambient temperature for eight hours to give a clear solution. The solution was lyophilized to give white powder of 1-[(2R, 6R)-3,5-dihydroxy-6-hydroxymethyl-4-(2-pyrimidinyl)morpholin-2-yl]uracil (8.40 g).

reactant | α-(1-Formyl-2-hydroxyethoxy)-3,4-dihydro-2,4-dioxo-1(2H)-pyrimidineacetaldehyde | 6.05 g | C(=O)C(CO)OC(C=O)N1C(NC(C=C1)=O)=O | C9H10N2O6
reactant | 2-aminopyrimidine | 2.38 g | NC1=NC=CC=N1 | C4H5N3
solvent | water | 25 ml | O | H2O
product | 1-[(2R, 6R)-3,5-dihydroxy-6-hydroxymethyl-4-(2-pyrimidinyl)morpholin-2-yl]uracil | 8.40 g | OC1N(C([C@H](O[C@H]1N1C(=O)NC(=O)C=C1)CO)O)C1=NC=CC=N1 | C13H15N5O6
